US07326791B2
(d) 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbromobenzene
25.0 g (0.12 mol) of 4-bromo-2-methylbenzoic acid is dissolved in 250 mL of dimethylformamide and after the addition of 41.7 g (0.13 mol) of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU), 14.3 mL (0.13 mol) of N-methylmorpholine and 9.6 mL (0.12 mol) of 2,5-dihydropyrrole, the mixture is stirred for 16 hours at ambient temperature. Then it is poured onto ice water and extracted with ethyl acetate. The combined organic extracts are washed with sodium hydrogen carbonate solution, dried over sodium sulfate and concentrated by evaporation. Yield: 31.6 g (97% of theory); Rf value: 0.45 (silica gel; dichloromethane/ethanol=19:1).

reactant | 4-bromo-2-methylbenzoic acid | 0.12 mol, 25.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.13 mol, 41.7 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 0.13 mol, 14.3 mL | CN1CCOCC1 | C5H11NO
reactant | 2,5-dihydropyrrole | 0.12 mol, 9.6 mL | N1CC=CC1 | C4H7N
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-(2,5-dihydropyrrol-1-ylcarbonyl)-3-methylbromobenzene | N1(CC=CC1)C(=O)C1=C(C=C(C=C1)Br)C | C12H12BrNO
